US06972299B2
(4,5-Dichloro-2-phenylethynyl-imidazol-1-yl)-acetic acid ethyl ester
The title compound, MS: m/e=323.0 (M+H+) was prepared in accordance with the general method of example 1b from ethyl (2-bromo-4,5-dichloroimidazole-1-yl)acetate and ethynylbenzene.

reactant | ethyl (2-bromo-4,5-dichloroimidazole-1-yl)acetate | BrC=1N(C(=C(N1)Cl)Cl)CC(=O)OCC | C7H7BrCl2N2O2
reactant | ethynylbenzene | C(#C)C1=CC=CC=C1 | C8H6
product | (4,5-Dichloro-2-phenylethynyl-imidazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(=NC(=C1Cl)Cl)C#CC1=CC=CC=C1)=O | C15H12Cl2N2O2
